US06919331B2
To a solution of 1H-pyrrolo[2,3-b]pyridine-2,3-dione 3-[O-(2-fluoro-ethyl)-oxime] (23 mg, 0.11 mmol) in DMF (1.6 mL) was added Cs2CO3 (108 mg, 0.33 mmol). After stirring for 20 minutes, [2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester; HCl salt (44 mg, 0.11 mmol) was added and the resulting mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and the combined organic fractions washed with water, brine, dried over MgSO4 and evaporated. The residue was purified by flash chromatography (eluant 1%, 5% MeOH in CH2Cl2) to give [2-[3-(2-fluoro-ethoxyimino)-2-oxo-2,3-dihydro-pyrrolo[2,3-b]pyridin-1-ylmethyl]-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (53 mg, 72%) as an off-white solid:

reactant | 1H-pyrrolo[2,3-b]pyridine-2,3-dione 3-[O-(2-fluoro-ethyl)-oxime] | 0.11 mmol, 23 mg | FCCON=C1C(NC2=NC=CC=C21)=O | C9H8FN3O2
reactant | Cs2CO3 | 0.33 mmol, 108 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | [2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CCl)CCC(C)C)C=C1)=O | C19H28ClN3O2
reactant | HCl | 0.11 mmol, 44 mg | Cl | ClH
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
product | [2-[3-(2-fluoro-ethoxyimino)-2-oxo-2,3-dihydro-pyrrolo[2,3-b]pyridin-1-ylmethyl]-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 53 mg, 72% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(C(C=3C2=NC=CC3)=NOCCF)=O)CCC(C)C)C=C1)=O | C28H35FN6O4
